US04652651
3.6 g (8.9 mmol) of t-butyl(3R,4S)-1-(2,4-dimethoxybenzyl)-4-[(E)-2-carbamoylvinyl]-2-oxo-3-azetidinecarbamate are dissolved in 80 ml of acetonitrile and 150 ml of water and the solution is treated dropwise under reflux with a solution of 4.9 g (17.8 mmol) of potassium peroxydisulphate in 50 ml of water. The pH is held at 6.5 by the addition of saturated aqueous sodium bicarbonate solution. After 4 hours 40 ml of acetonitrile are distilled off. The crude mixture is subsequently partially evaporated and cooled to +5° C. The crystals obtained are filtered off. The filtrate is washed twice with 100 ml of ether each time. The aqueous phase is saturated with sodium chloride and extracted three times with 300 ml of ethyl acetate each time. The combined organic phases are dried over sodium sulphate and evaporated. There is obtained a brown residue which yields 920 mg (41%) of t-butyl(3R,4S)-4-[(E)-2 -carbamoylvinyl]-2-oxo-3-azetidinecarbamate after recrystallization from methanol.

reactant | t-butyl(3R,4S)-1-(2,4-dimethoxybenzyl)-4-[(E)-2-carbamoylvinyl]-2-oxo-3-azetidinecarbamate | 8.9 mmol, 3.6 g | COC1=C(CN2C([C@@H]([C@@H]2\C=C\C(N)=O)NC(=O)OC(C)(C)C)=O)C=CC(=C1)OC | C20H27N3O6
reactant | potassium peroxydisulphate | 17.8 mmol, 4.9 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | t-butyl(3R,4S)-4-[(E)-2 -carbamoylvinyl]-2-oxo-3-azetidinecarbamate | 920 mg, 41% | C(N)(=O)/C=C/[C@H]1[C@H](C(N1)=O)NC(=O)OC(C)(C)C | C11H17N3O4
